US08058300B2
Step 2: 5-(4-Bromo-phenyl)-isoxazole-4-carboxylic acid:
5-(4-Bromo-phenyl)-isoxazole-4-carboxylic acid ethyl ester (0.500 g, 1.69 mmol) was dissolved in concentrated hydrochloric acid (2 mL), acetic acid (5 mL), and H2O (5 mL), and the reaction was stirred at 100° C. overnight. The mixture was partitioned between EtOAc and H2O, and the organic layer was separated, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | 5-(4-Bromo-phenyl)-isoxazole-4-carboxylic acid ethyl ester | 1.69 mmol, 0.500 g | C(C)OC(=O)C=1C=NOC1C1=CC=C(C=C1)Br | C12H10BrNO3
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | H2O | 5 mL | O | H2O
solvent | hydrochloric acid | 2 mL | Cl | ClH
product | 5-(4-Bromo-phenyl)-isoxazole-4-carboxylic acid | BrC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C10H6BrNO3
